US04929620
To a solution of 46.5 g (0.169 mol) of ethyl 4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinecarboxylate in 500 mL of dichloromethane at -78° C. under nitrogen was added 340 mL of a 1M solution of diisobutylauminum hydride (0.339 mol) in dichloromethane. The resulting mixture was stirred at -78° C. for one-half hour and then the reaction was quenched by the addition of a saturated aqueous solution of sodium sulfate (48.15 g, 0.34 mol). The cooling bath was removed and the mixture was vigorously stirred for twenty minutes and then filtered through Celite®. The filter cake was thoroughly washed with chloroform and the combined filtrate and washings were dried over anhydrous magnesium sulfate and evaporated to yield 31.14 g of 4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinemethanol, mp 174°-176° C.

reactant | ethyl 4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinecarboxylate | 0.169 mol, 46.5 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OCC)C)C | C15H15FN2O2
reactant | hydride | 0.339 mol | [H-]
reactant | sodium sulfate | 0.34 mol, 48.15 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinemethanol | 31.14 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1CO)C)C | C13H13FN2O
